* C:\Users\Alvaro PC\Documents\GitHub\Elec-Pot\Module 5 Thyristor\Simulation\SCR.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 SINE(0 120 60) Rser=0.1
L1 N001 0 1
L2 0 N002 10m
X§U1 N002 N004 N003 SCR
R2 N003 0 5.56 pwr=21W
C2 N003 0 6800µF
R1 N003 0 220
D4 N005 N004 1N5408
R3 N005 N002 10k
.model D D
.lib C:\Users\Alvaro PC\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 1
.tran 0 200m
.subckt SCR 1 2 3
* Anode=1 Gate=2 Cathode=3
Q1 5 4 3 QMOD1
Q2 4 5 1 QMOD2
RG 2 4 100
RT 1 5 1k
.model QMOD1 NPN(Bf=100 Br=1 Cje=1pF Cjc=2pF Vaf=200)
.model QMOD2 PNP(Bf=20 Br=1 Cje=3pF Cjc=5pF Vaf=50)
.ends SCR
.model 1N5408 D (IS=1.41E-6 RS=0.0339 N=1.9011 BV=1000 IBV=5E-6 CJO=4.5E-11 M=0.4061 VJ=0.5 FC=0.5 TT=4.761E-6 EG=1.11 XTI=3)
.backanno
.end
