* C:\Users\Alvaro PC\Documents\GitHub\Elec-Pot\Modulo 6 Controlled Rectifier\Simulation\Simulation.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N004 0 SINE(0 120 60) Rser=0.1
L1 N004 0 1
L2 N006 N005 10m
X§U1 N005 N001 N003 SCR
X§U2 N006 N002 N003 SCR
X§U3 0 N007 N005 SCR
X§U4 0 N008 N006 SCR
R1 N003 0 5.56 pwr=21
C1 N003 0 470µ
V3 N002 0 PULSE(0 10 3.89m 1u 1u 100u 16.67m)
V4 N007 0 PULSE(0 10 12.22m 1u 1u 100u 16.67m)
V5 N008 0 PULSE(0 10 12.22m 1u 1u 100u 16.67m)
V2 N001 0 PULSE(0 10 3.89m 1u 1u 100u 16.67m)
K1 L1 L2 1
.subckt SCR 1 2 3
* Anode=1 Gate=2 Cathode=3
Q1 5 4 3 QMOD1
Q2 4 5 1 QMOD2
RG 2 4 100
RT 1 5 1k
.model QMOD1 NPN(Bf=100 Br=1 Cje=1pF Cjc=2pF Vaf=200)
.model QMOD2 PNP(Bf=20 Br=1 Cje=3pF Cjc=5pF Vaf=50)
.ends SCR
.tran 0 100m 0 1u
.backanno
.end
