* D:\Doc\202520\Electronica de Potencias\LTspice\Tutoriales\Tutorial1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 In 0 PULSE(0 5 10m 1u 1u 10m 20m)
R1 Out In 10k
C1 Out 0 0.1µ
.tran 60m
.backanno
.end
